US07005432B2
2-Bromo-8-fluoro-naphthalene
To a solution of BF3-etherate (0.86 ml, 1.25 M in THF, 6.5 mmol) in 12 ml dimethoxyethane was added at −5° C. a solution of 8-amino-2-bromo-naphthalene (1.20 g, 5.4 mmol) in dimethoxyethane (12 ml) over a periode of 35 min. After 1 hour a solution of tert-butylnitrite (0.62 ml, 5.4 mmol) in dimethoxyethane (24 ml) was added and the mixture was stirred for two hours at r.t. and the solvent was removed under reduced pressure. Chlorbenzene (120 ml) was added and the reaction mixture was refluxed for 50 min and the mixture was concentrated. The solid was diluted in methylene chloride and washed with NaHCO3. The organic phase was dried over MgSO4, filtered and reduced to give the crude product. Chromatography on silica gel (hexane) afforded 721 mg (59%) of the product as a brown oil. MS: m/e=242 (M+).

reactant | BF3 | B(F)(F)F | BF3
reactant | 8-amino-2-bromo-naphthalene | 5.4 mmol, 1.20 g | NC=1C=CC=C2C=CC(=CC12)Br | C10H8BrN
reactant | tert-butylnitrite | 5.4 mmol, 0.62 ml | C(C)(C)(C)ON=O | C4H9NO2
solvent | THF | C1CCOC1 | C4H8O
solvent | dimethoxyethane | 12 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 12 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 24 ml | C(OC)COC | C4H10O2
product | 2-Bromo-8-fluoro-naphthalene | 721 mg, 59% | BrC1=CC2=C(C=CC=C2C=C1)F | C10H6BrF
